US06680338B2
Intermediate 5 Methyl 4-iodomethyl-tetrahydropyran-4-carboxylate
To a stirred solution of methyl tetrahydropyran-4-carboxylate (3.00 g) in anhydrous THF (50 ml) under nitrogen at 0° C. was added a solution of lithium di-isopropylamide (2.0 M, 10.9 ml). After 30 minutes, diiodomethane (8.36 g) was added and the mixture was allowed to warm up to RT and then stirred for 1 h. The mixture was poured onto water (50 ml) and extracted with ether (3×40 ml). The combined ether layers were washed with water (2×20 ml), aqueous hydrochloric acid (2 M, 20 ml), water (20 ml) and brine (20 ml), dried (MgSO4) and evaporated under reduced pressure. The residue was purified on silica gel, eluting with 3:1 hexane/ether, to give the title compound (3.11 g) as a colourless oil.

reactant | methyl tetrahydropyran-4-carboxylate | 3.00 g | O1CCC(CC1)C(=O)OC | C7H12O3
reactant | lithium di-isopropylamide | 2.0 M, 10.9 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | diiodomethane | 8.36 g | ICI | CH2I2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Methyl 4-iodomethyl-tetrahydropyran-4-carboxylate | 3.11 g | ICC1(CCOCC1)C(=O)OC | C8H13IO3
